US08426420B2
iii) 4-[(S)-4-Benzyloxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester
To a solution of 355 mg 5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid in 3 ml DMF were added 356 μl DIPEA, 328 mg HATU and 400 mg 4-((S)-2-amino-4-benzyloxy-butyryl)-piperazine-1-carboxylic acid ethyl ester hydrotrifluoroacetate. After stirring for 12 h the reaction mixture was diluted with ethyl acetate and subsequently washed with aqueous LiCl (4%), 0.1 M HCl and saturated NaHCO3. The crude product obtained after evaporation of the solvent was used without further purification. Yield: 543 mg.

reactant | 5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carboxylic acid | 355 mg | C1(CCC1)NC(=O)[C@H]1N(CCC1)C(COC1=CC(=NN1C1=CC=CC=C1)C(=O)O)=O | C21H24N4O5
reactant | DIPEA | 356 μl | CCN(C(C)C)C(C)C | C8H19N
reactant | HATU | 328 mg | CN(C)C(=[N+](C)C)ON1C2=C(C=CC=N2)N=N1.F[P-](F)(F)(F)(F)F
reactant | 4-((S)-2-amino-4-benzyloxy-butyryl)-piperazine-1-carboxylic acid ethyl ester | 400 mg | C(C)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)N)=O | C18H27N3O4
solvent | DMF | 3 ml | CN(C)C=O | C3H7NO
solvent | ethyl acetate | C(C)(=O)OCC | C4H8O2
product | 4-[(S)-4-Benzyloxy-2-({5-[2-((S)-2-cyclobutylcarbamoyl-pyrrolidin-1-yl)-2-oxo-ethoxy]-1-phenyl-1H-pyrazole-3-carbonyl}-amino)-butyryl]-piperazine-1-carboxylic acid ethyl ester | C(C)OC(=O)N1CCN(CC1)C([C@H](CCOCC1=CC=CC=C1)NC(=O)C1=NN(C(=C1)OCC(=O)N1[C@@H](CCC1)C(NC1CCC1)=O)C1=CC=CC=C1)=O | C39H49N7O8
